US06872834B2
Step B Preparation of 1-ethynyl-4-(3-chloropropoxy)benzene
To LDA (2M in THF, 15 mL) in THF (100 mL) at −78° C., TMSCHN2 (2M in hexanes, 15 mL) was added dropwisely. Ten minutes later, 4-(3-chloropropoxy)benzaldehyde (0.025 mol, 4.97 g) in THF (60 mL) was added. After 1 h stirring at −78° C., the mixture was warmed up and refluxed for 3 h. Water (250 mL) was added and extracted by EtOAc (2×200 mL). After being dried over Na2SO4 and concentration, the title compound (4.8 g) was obtained.

reactant | LDA | 2M, 15 mL | [Li+].CC(C)[N-]C(C)C
reactant | TMSCHN2 | 2M, 15 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 4-(3-chloropropoxy)benzaldehyde | 0.025 mol, 4.97 g | ClCCCOC1=CC=C(C=O)C=C1 | C10H11ClO2
reactant | Water | 250 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-ethynyl-4-(3-chloropropoxy)benzene | 4.8 g | C(#C)C1=CC=C(C=C1)OCCCCl | C11H11ClO
